* LP87524 behavioral buck outputs
.subckt LP87524 VIN GND VOUT3V3 VOUT1V8 VOUT1V2 VOUT1V0
E3V3 VOUT3V3 GND VALUE = {V(VIN)*0.66}
E1V8 VOUT1V8 GND VALUE = {V(VIN)*0.36}
E1V2 VOUT1V2 GND VALUE = {V(VIN)*0.24}
E1V0 VOUT1V0 GND VALUE = {V(VIN)*0.20}
.ends LP87524
